US06599917B1
b) (3R)-3-[4-Benzyl-2-(2-furylmethoxy)-5-pyrimidyl]ethynyl-3-quinuclidinol
A mixture of 50.9 mg of 4-benzyl-2-(2-furylmethoxy)-5-bromopyrimidine, 26.8 mg of (3R)-3-ethynyl-3-quinuclidinol, 8.5 mg of tetrakis(triphenylphosphine)palladium(0), 0.3 mg of cuprous iodide, 61.5 μl of triethylamine and 1 ml of N,N-dimethylformamide was stirred at 90° C. for 4 hours in a nitrogen atmosphere. NH-silica gel was added to the reaction solution and the solvent was removed. The residue was subjected to NH-silica gel column chromatography using 3% methanol/ethyl acetate, to give 29.0 mg of the target compound.

reactant | 4-benzyl-2-(2-furylmethoxy)-5-bromopyrimidine | 50.9 mg | C(C1=CC=CC=C1)C1=NC(=NC=C1Br)OCC=1OC=CC1 | C16H13BrN2O2
reactant | (3R)-3-ethynyl-3-quinuclidinol | 26.8 mg | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 61.5 μl | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 8.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (3R)-3-[4-Benzyl-2-(2-furylmethoxy)-5-pyrimidyl]ethynyl-3-quinuclidinol | 29.0 mg | C(C1=CC=CC=C1)C1=NC(=NC=C1C#C[C@]1(CN2CCC1CC2)O)OCC=2OC=CC2 | C25H25N3O3
